US07884245B2
Into a 500 ml four-neck flask were added 16.9 g (100 mmol) of diphenylamine, 15.1 g (251 mmol) of acetic acid, and 207 g of methanol and the whole was dissolved under stirring. Thereto was added 13.8 g (200 mmol) of sodium nitrite dissolved in 57 g of water, followed by stirring at 15 to 20° C. for 3 hours. After the disappearance of diphenylamine was confirmed by high-performance liquid chromatography, 26.1 g (653 mmol) of sodium hydroxide dissolved in 119 g of water and 259 g (240 mmol) of thiourea dioxide were added, followed by stirring at 38 to 43° C. for 3 hours. After the disappearance of N-nitrosodiphenylamine was confirmed by high-performance liquid chromatography, methanol was removed by distillation under reduced pressure, followed by extraction with 120 g of toluene to obtain a toluene solution of 1,1-diphenylhydrazine. The compositional ratio excluding toluene determined by high-performance liquid chromatography was 88.9% of 1,1-diphenylhydrazine and 10.2% of diphenylamine.

reactant | diphenylamine | 100 mmol, 16.9 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | acetic acid | 251 mmol, 15.1 g | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 200 mmol, 13.8 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 653 mmol, 26.1 g | [OH-].[Na+]
reactant | thiourea dioxide | 240 mmol, 259 g | [NH2+](C(=S)N)(=O)[O-] | CH4N2O2S
reactant | N-nitrosodiphenylamine | N(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2O
solvent | water | 57 g | O | H2O
solvent | water | 119 g | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 207 g | CO | CH4O
product | 1,1-diphenylhydrazine | C1(=CC=CC=C1)N(N)C1=CC=CC=C1 | C12H12N2
